US08334235B2
5-[2-(4-Chlorophenyl)ethyl]-1,3,4-oxathiazol-2-one
11.60 g (88.5 mmol) of chlorocarbonylsulphenyl chloride and 13.54 g (73.8 mmol) of 3-(4-chlorophenyl)propionamide are stirred in 25 ml of toluene at 70° C. for 3 h. Subsequently, the mixture is cooled and freed from a solvent under vacuum and the residue is purified by column chromatography. 15.6 g of product are obtained (99.9% purity, 87.6% yield, log P (pH 2.3)=3.36).

reactant | chlorocarbonylsulphenyl chloride | 88.5 mmol, 11.60 g | ClC(=O)SCl | CCl2OS
reactant | 3-(4-chlorophenyl)propionamide | 73.8 mmol, 13.54 g | ClC1=CC=C(C=C1)CCC(=O)N | C9H10ClNO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[2-(4-Chlorophenyl)ethyl]-1,3,4-oxathiazol-2-one | 15.6 g, 87.6% yield | ClC1=CC=C(C=C1)CCC1=NSC(O1)=O | C10H8ClNO2S
